US08685986B2
15-(a) 4-(Thiazol-4-yl)benzaldehyde
To a solution of 4-bromothiazole (see The Journal of Organic Chemistry, 71, 3754 (2006)) (1.31 g, 7.98 mmol) in 1,2-dimethoxyethane (38.0 ml) were added 4-formylphenylboronic acid (1.45 g, 9.67 mmol), sodium hydrogencarbonate (2.00 g, 23.8 mmol) and water (19 ml), which was deaerated under reduced pressure, followed by argon substitution. Tetrakis(triphenylphosphine)palladium (270 mg, 0.234 mmol) was then added, followed by heating to reflux for 16 hours under argon atmosphere. After completion of the reaction, a saturated aqueous sodium chloride solution was added to the reaction solution, followed by extraction with chloroform. The separated organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate-4:1 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (1.29 g) as a slightly yellow solid. (Yield: 85%)

reactant | 4-bromothiazole | BrC=1N=CSC1 | C3H2BrNS
reactant | 4-formylphenylboronic acid | 9.67 mmol, 1.45 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium hydrogencarbonate | 23.8 mmol, 2.00 g | C(O)([O-])=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | 1,2-dimethoxyethane | 38.0 ml | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.234 mmol, 270 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 19 ml | O | H2O
product | 4-(Thiazol-4-yl)benzaldehyde | 1.29 g, Yield: 85% | S1C=NC(=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
